US07807671B2
A 100 ml three necked round bottom flask was charged with 6-phenyl-5-(piperazin-1-yl)pyridazin-3(2H)-one (2.0 g), dry potassium carbonate (2.1 g) and dry DMF (150 ml) under nitrogen atmosphere. The reaction mixture was stirred at room temperature and benzoylchloride (1.5 g) was added into the reaction mixture very slowly. The reaction mixture was heated 120° C. for 4 hrs. The progress of reaction was monitored by TLC. After consumption of starting material reaction mixture was cooled to 0° C., ice-cold water (20.0 ml) was added to reaction mixture and the organic compound was extracted into ethylacetate (4×20 ml). Combined organic layers were dried (Na2SO4) and concentrated. The crude material was purified by column chromatography using MeOH/CHCl3 (1:9) as eluent to afford 5-(4-benzoylpiperazin-1-yl)-6-phenylpyridazin-3 (2H)-one.

reactant | 6-phenyl-5-(piperazin-1-yl)pyridazin-3(2H)-one | 2.0 g | C1(=CC=CC=C1)C=1C(=CC(NN1)=O)N1CCNCC1 | C14H16N4O
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoylchloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 5-(4-benzoylpiperazin-1-yl)-6-phenylpyridazin-3 (2H)-one | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC(NN=C1C1=CC=CC=C1)=O | C21H20N4O2
